.title NMOS common-source amplifier
Vdd vdd 0 5.0
Vin vin 0 DC 0 AC 1 SIN(0 0.01 1000.0)
Rg1 vdd gate 60000.0
Rg2 gate 0 40000.0
Cb1 vin gate 1e-05
Rd vdd drain 2000.0
M1 drain gate 0 0 NM l=1e-05 w=1e-05
.model NM NMOS (gamma=0 kp=0.0016 lambda=0.02 level=1 vto=1.0)
.options TEMP = 27C
.options TNOM = 27C
.options reltol = 1e-07
.options abstol = 1e-12
.options vntol = 1e-09
.ac lin 1 1000 1000
.end
