.title Thevenin equivalent
Vs supply 0 8.0
R1 supply a 666.6666666666666
Rload a 0 2000.0
.options TEMP = 27C
.options TNOM = 27C
.options reltol = 1e-07
.options abstol = 1e-12
.options vntol = 1e-09
.op
.end
