.title Original two-terminal network
Vs supply 0 12.0
R1 supply a 1000.0
R2 a 0 2000.0
.options TEMP = 27C
.options TNOM = 27C
.options reltol = 1e-07
.options abstol = 1e-12
.options vntol = 1e-09
.op
.end
